US07208524B2
To a stirred solution of 100 mg of ethyl [2-[2-[(5-carbamimidoyl-2-hydroxybenzenesulfonyl)-(2-methyl-1,3-thiazol-4-ylmethyl)amino]ethyl]-5-isopropylphenoxy]acetate in 0.8 mL of ethanol was added 0.183 mL of 2 mol/L sodium hydroxide solution under ice-cooling. After being stirred at the same temperature for 30 minutes, the reaction mixture was concentrated under reduced pressure. To the stirred solution of the residue in a mixture of 0.8 mL of acetonitrile and 0.8 mL of water was added 0.174 mL of 1 mol/L hydrochloric acid under ice-cooling, and the mixture was stirred at the same temperature for 5 minutes. To the mixture was added additional 0.174 mL of 1 mol/L hydrochloric acid under ice-cooling, and the mixture was stirred at the same temperature for 5 minutes. The precipitate was collected by filtration, and washed with water to give 74 mg of [2-[2-[(5-carbamimidoyl-2-hydroxybenzenesulfonyl)-(2-methyl-1,3-thiazole-4-ylmethyl)amino]ethyl]-5-isopropylphenoxy]acetic acid.

reactant | ethyl [2-[2-[(5-carbamimidoyl-2-hydroxybenzenesulfonyl)-(2-methyl-1,3-thiazol-4-ylmethyl)amino]ethyl]-5-isopropylphenoxy]acetate | 100 mg | C(N)(=N)C=1C=CC(=C(C1)S(=O)(=O)N(CCC1=C(OCC(=O)OCC)C=C(C=C1)C(C)C)CC=1N=C(SC1)C)O | C27H34N4O6S2
reactant | sodium hydroxide | 2 mol/L, 0.183 mL | [OH-].[Na+]
solvent | ethanol | 0.8 mL | C(C)O | C2H6O
product | [2-[2-[(5-carbamimidoyl-2-hydroxybenzenesulfonyl)-(2-methyl-1,3-thiazole-4-ylmethyl)amino]ethyl]-5-isopropylphenoxy]acetic acid | 74 mg | C(N)(=N)C=1C=CC(=C(C1)S(=O)(=O)N(CCC1=C(OCC(=O)O)C=C(C=C1)C(C)C)CC=1N=C(SC1)C)O | C25H30N4O6S2
